US04460782
Preparation of 2-methoxymethylsuccinic acid N-(3,5-dichlorophenyl)imide
150 g of 2-methoxymethylsuccinic acid, 150g of 3,5-dichloroaniline and 0.5 g of triethylamine are heated under reflux, for four hours, in 1.5 liters of xylene, and the water formed is separated off by means of a water separator. The solvent is then drawn off. 250 g of end product are obtained in crystalline form.

reactant | 2-methoxymethylsuccinic acid | 150 g | COCC(C(=O)O)CC(=O)O | C6H10O5
reactant | 3,5-dichloroaniline | ClC=1C=C(N)C=C(C1)Cl | C6H5Cl2N
reactant | triethylamine | 0.5 g | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | xylene | 1.5 liters | C=1(C(=CC=CC1)C)C | C8H10
product | 2-methoxymethylsuccinic acid N-(3,5-dichlorophenyl)imide | ClC=1C=C(C=C(C1)Cl)N=C(C(CC(=O)O)COC)O | C12H13Cl2NO4
